US08809536B2
(R*)-3-{1-[(S)-1-(2,3-Dihydrobenzo[1,4]dioxin-2-yl)methyl]piperidin-3-yl}phenol
(R)-2,3-Dihydrobenzo[1,4]dioxin-2-yl-[(R*)-3-(3-hydroxyphenyl)piperidin-1-yl]-methanone (17.8 g, 54.7 mmol) was treated with BH3THF according to the above general procedure. Crystallisation from hot EtOH gave 8.5 g of the title compound as almost white crystals.

reactant | (R)-2,3-Dihydrobenzo[1,4]dioxin-2-yl-[(R*)-3-(3-hydroxyphenyl)piperidin-1-yl]-methanone | 54.7 mmol, 17.8 g | O1[C@H](COC2=C1C=CC=C2)C(=O)N2C[C@H](CCC2)C2=CC(=CC=C2)O | C20H21NO4
reactant | BH3THF | B.C1CCOC1
product | (R*)-3-{1-[(S)-1-(2,3-Dihydrobenzo[1,4]dioxin-2-yl)methyl]piperidin-3-yl}phenol | 8.5 g | O1[C@H](COC2=C1C=CC=C2)CN2C[C@H](CCC2)C=2C=C(C=CC2)O | C20H23NO3
